US05409689
B. Synthesis of N-Carboxymethyl-N',N",-bis(dihydroxyphosphorylmethyl)-1,4,7-triazacyclononane
To a solution of 0.25 millimoles of N,N'-bis(dihydroxyphosphorylmethyl)-1,4,7-triazacyclononane in water were added 0.3 millimoles of chloroacetic acid, and the pH was adjusted to 9.0 by dropwise, addition of NaOH. The mixture was then heated to 80° C. and held at that temperature overnight. Hydrochloric acid was then added to a pH of 1.5, and the water was evaporated. The solids were then triturated with ether followed by ethanol to remove contaminants, and the remaining solid product was identified by proton NMR as N-carboxymethyl-N',N"-bis(dihydroxyphosphorylmethyl)-1,4,7-triazacyclononane.

reactant | N,N'-bis(dihydroxyphosphorylmethyl)-1,4,7-triazacyclononane | 0.25 millimoles | OP(=O)(O)CN1CCN(CCNCC1)CP(=O)(O)O | C8H21N3O6P2
reactant | chloroacetic acid | 0.3 millimoles | ClCC(=O)O | C2H3ClO2
reactant | NaOH | [OH-].[Na+]
reactant | Hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | N-Carboxymethyl-N',N",-bis(dihydroxyphosphorylmethyl)-1,4,7-triazacyclononane | C(=O)(O)CN1CCN(CCN(CC1)CP(=O)(O)O)CP(=O)(O)O | C10H23N3O8P2
